data/mechanism_extracts/OrgLett/10.1021_acs.orglett.1c00704.json
{"doi": "10.1021_acs.orglett.1c00704", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "Electrochemical 1,2-dichlorination of aromatic compounds and alpha,beta-unsaturated substrates using Cl3CCN as the chlorine source via paired electrolysis", "mechanism_family": ["paired_electrolysis", "radical_cathodic", "anion_initiated"], "electrochemical_role": "Paired electrolysis: cathodic reduction of Cl3CCN releases a chloride anion and a neutral radical A, which is further reduced to dichloroacetonitrile anion B; at the anode, chloride (from cathode and/or from TEAC supporting electrolyte) is oxidized to molecular Cl2, which then chlorinates the substrate", "key_intermediates": [{"name": "neutral dichloroacetonitrile radical (Cl2C*CN, intermediate A)", "smiles": "[CH](Cl)(Cl)C#N", "role": "transient"}, {"name": "dichloroacetonitrile anion (Cl2C(-)CN, intermediate B)", "smiles": "[C-](Cl)(Cl)C#N", "role": "reactive"}, {"name": "dichloroacetonitrile (Cl2CHCN, C)", "smiles": "ClC(Cl)C#N", "role": "transient"}, {"name": "chloroacetonitrile (ClCH2CN, D)", "smiles": "ClCC#N", "role": "off_pathway"}, {"name": "molecular chlorine (Cl2) generated at the anode", "smiles": "ClCl", "role": "reactive"}, {"name": "chloronium-like / electrophilic chlorination intermediate on aromatic (1 -> 2)", "smiles": null, "role": "transient"}, {"name": "beta-chloro carbocation/chloronium on alkene (intermediate 3)", "smiles": null, "role": "reactive"}, {"name": "tetraethylammonium dichloroacetonitrile salt (Et4N+ Cl2CCN-)", "smiles": null, "role": "resting_state"}], "electron_flow": "At the cathode, Cl3CCN accepts an electron to release Cl- and radical A, which gains a second electron to form the dichloroacetonitrile anion B; simultaneously, at the anode, chloride (from B-derived release and from TEAC) is oxidized to Cl2, which then electrophilically chlorinates the arene or alpha,beta-unsaturated substrate to give the 1,2-dichloride product.", "rate_determining_step": null, "probe_reagents": [{"name": "N-allyl-N-(2-propenyl)-p-toluenesulfonamide probe 5 (chloride vs chloride-radical probe)", "smiles": "Cc1ccc(cc1)S(=O)(=O)N(CC=C)CC=C", "purpose": "intermediate_trap", "observation": "Tetrachlorinated open-chain product 6 isolated in 76% yield (consistent with Cl2/Cl+); the cyclized pyrrolidine product 7 (diagnostic of Cl radical) was not detected, supporting chlorine (Cl2) rather than Cl* as the active species"}, {"name": "KI-starch test (atmosphere on 1 mol scale of 1b)", "smiles": null, "purpose": "intermediate_trap", "observation": "Positive KI-starch response confirmed the presence of Cl2 in the reaction"}, {"name": "Cyclic voltammetry of reaction mixtures (acetyl aniline 1b and cinnamide 3a with Et4NCl / Cl3CCN)", "smiles": null, "purpose": "redox_probe", "observation": "Both mixtures share peaks at ca. -1.7 V vs SCE (reduction of Cl3CCN) and +1.8 V vs SCE (oxidation of chloride), and scans starting from either polarity give identical patterns, indicating a single dominant pathway involving cathodic reduction of Cl3CCN and anodic oxidation of Cl-"}], "evidence_types_used": ["intermediate_trap_other", "cyclic_voltammetry", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Authors explicitly distinguish chlorine (Cl2) from chlorine radical using the diallylsulfonamide probe 5: trapping a Cl* would have given cyclized pyrrolidine 7, but only the open tetrachloride 6 formed, arguing against a radical-chain Cl* pathway. For alpha,beta-unsaturated substrates, 1 equiv TEAC is required because no proton is generated to recycle Cl-; the Et4N+ pairs with anion B. The chlorination step itself is described as independent of the electrochemical process (electrophilic addition of in situ Cl2), so the role of electrolysis is on-demand Cl2 generation from Cl3CCN."}
